US04539151
Preparation of 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
1.0 g of 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one was dissolved in 20 ml of methanol and then hydrogenated at atmospheric pressure in the presence of 50 mg of 5% palladium-carbon. Thus, there was obtained the desired compound, or 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one.

reactant | 3-benzyloxycarbonylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.0 g | C(C1=CC=CC=C1)OC(=O)NC1CSC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 3-amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | NC1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
